US07687491B2
(11f) {5-[5-(3-Fluoro-4-phenoxyphenyl]-1,2,4-oxadiazol-3-yl)-4-methyl-2-thienyl}methanol
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 10 (10f) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxy-3-methylthiophene-2-carboximidamide (0.18 g, 0.60 mmol) that was obtained in Example 11 (11d), 3-fluoro-4-phenoxybenzoic acid (0.15 g, 0.66 mmol) that was obtained in Example 11 (11e), N,N′-dicyclohexylcarbodiimide (0.14 g, 0.66 mmol), and 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.90 mL, 0.90 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1) as the eluent to afford the title compound (0.21 g) in a yield of 93% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxy-3-methylthiophene-2-carboximidamide | 0.60 mmol, 0.18 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C(N)=NO)C | C13H24N2O2SSi
reactant | 3-fluoro-4-phenoxybenzoic acid | 0.66 mmol, 0.15 g | FC=1C=C(C(=O)O)C=CC1OC1=CC=CC=C1 | C13H9FO3
reactant | N,N′-dicyclohexylcarbodiimide | 0.66 mmol, 0.14 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.90 mmol, 0.90 mL | O1CCCC1 | C4H8O
product | {5-[5-(3-Fluoro-4-phenoxyphenyl]-1,2,4-oxadiazol-3-yl)-4-methyl-2-thienyl}methanol | FC=1C=C(C=CC1OC1=CC=CC=C1)C1=NC(=NO1)C1=C(C=C(S1)CO)C | C20H15FN2O3S
